US06166006
A solution of p-nitrobenzyl bromide (10 g) in THF (50 ml) was added dropwise to a solution of bis(2-methoxyethyl)amine (6.8 g) and triethylamine (10 ml) in THF (50 ml). Under nitrogen atmosphere, the mixture was stirred at room temperature overnight, and the solvent was evaporated. To the residue was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried with anhydrous magnesium sulfate. Under reduced pressure, the solvent was evaporated to give N,N-bis(2-methoxyethyl)-4-nitrobenzylamine (10.8 g) as yellow oil.

reactant | p-nitrobenzyl bromide | 10 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | bis(2-methoxyethyl)amine | 6.8 g | COCCNCCOC | C6H15NO2
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N,N-bis(2-methoxyethyl)-4-nitrobenzylamine | 10.8 g | COCCN(CCOC)CC1=CC=C(C=C1)[N+](=O)[O-] | C13H20N2O4
